US04206217
3-[4-(Tetrahydropyrimidin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride
26 g of 3-(4-chloromethylphenyl)-1,2-benzisothiazole, 6.4 g of sulfur and 300 ml of toluene are heated to 50° C. 15 g of 1,3-diaminopropane are added slowly at the same temperature. The reaction mixture is then stirred for 20 hours under reflux. 20 g of hydrogen chloride gas are then passed in over one hour, the mixture is cooled to room temperature and the resulting solid is filtered off. After recrystallization from water in the presence of active charcoal, 18 g of 3-[4-tetrahydropyrimidin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride, melting, with decomposition, at 314° C., are obtained. The yield corresponds to 54.6% of theory.

reactant | 3-(4-chloromethylphenyl)-1,2-benzisothiazole | 26 g | ClCC1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | C14H10ClNS
reactant | sulfur | 6.4 g | [S] | S
reactant | 1,3-diaminopropane | 15 g | NCCCN | C3H10N2
reactant | hydrogen chloride | 20 g | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(Tetrahydropyrimidin-2-yl)-phenyl]-1,2-benzisothiazole hydrochloride | Cl.N1C(NCC=C1)C1=CC=C(C=C1)C1=NSC2=C1C=CC=C2 | InChI=1S/C17H15N3S.ClH/c1-2-5-15-14(4-1)16(20-21-15)12-6-8-13(9-7-12)17-18-10-3-11-19-17;/h1-10,17-19H,11H2;1H
